US08476434B2
Synthesis of N-(3-methyl-4-((3-(2-(methylamino)-4-pyrimidinyl)-2-pyridinyl)oxy)phenyl)-N′-(2-(4-methyl-1-piperazinyl)-5-(trifluoromethyl)phenyl)urea
To phenyl 3-methyl-4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenylcarbamate (59 mg, 0.14 mmol) in THF (1 mL) was added 2-(4-methylpiperazin-1-yl)-5-(trifluoromethyl)benzenamine (30 mg, 0.12 mmol). The mixture was stirred for 40 hours at 80° C. The crude material was purified by silica gel chromatography (0-20% MeOH/CH2Cl2) to yield the title compound as a light yellow solid. MS m/z=593 [M+H]+. Calc'd for C30H31F3N8O2: 592.63.

reactant | phenyl 3-methyl-4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenylcarbamate | 0.14 mmol, 59 mg | CC=1C=C(C=CC1OC1=NC=CC=C1C1=NC(=NC=C1)NC)NC(OC1=CC=CC=C1)=O | C24H21N5O3
reactant | 2-(4-methylpiperazin-1-yl)-5-(trifluoromethyl)benzenamine | 0.12 mmol, 30 mg | CN1CCN(CC1)C1=C(C=C(C=C1)C(F)(F)F)N | C12H16F3N3
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | N-(3-methyl-4-((3-(2-(methylamino)-4-pyrimidinyl)-2-pyridinyl)oxy)phenyl)-N′-(2-(4-methyl-1-piperazinyl)-5-(trifluoromethyl)phenyl)urea | CC=1C=C(C=CC1OC1=NC=CC=C1C1=NC(=NC=C1)NC)NC(=O)NC1=C(C=CC(=C1)C(F)(F)F)N1CCN(CC1)C | C30H31F3N8O2
